US08013008B2
benzyl (2S,3S)-2-ethyl-3-hydroxy-3-methylpyrrolidine-1-carboxylate
By an operation in the same manner as in Reference Example 3 and using cerium chloride (11.69 g), 3 mol/L methylmagnesium bromide-diethyl ether solution (13.55 mL) and benzyl (2S)-2-ethyl-3-oxopyrrolidine-1-carboxylate (3.35 g), the title compound was obtained as colorless oil (yield: 2.84 g, yield: 84%).

reactant | cerium chloride | 11.69 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | methylmagnesium bromide diethyl ether | 3 mol/L, 13.55 mL | C[Mg]Br.C(C)OCC
reactant | benzyl (2S)-2-ethyl-3-oxopyrrolidine-1-carboxylate | 3.35 g | C(C)[C@@H]1N(CCC1=O)C(=O)OCC1=CC=CC=C1 | C14H17NO3
product | benzyl (2S,3S)-2-ethyl-3-hydroxy-3-methylpyrrolidine-1-carboxylate | C(C)[C@@H]1N(CC[C@]1(C)O)C(=O)OCC1=CC=CC=C1 | C15H21NO3
